US07179943B2
N-[4-fluoro-3-(trifluoromethyl)phenyl]-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide
Sodium hydride (60% dispersion in mineral oil, 0.064 g, 1.59 mmol) was washed with dry hexane under a nitrogen atmosphere to remove mineral oil. It was then suspended in dry tetrahydrofuran (3 mL). To the suspension was added a solution of 2,4-dioxobicyclo[3.2.1]octane (0.20 g, 1.45 mmol) in dry tetrahydrofuran (10 mL). The resulting mixture was stirred at room temperature under a nitrogen atmosphere overnight. It was then treated with 4-fluoro-3-(trifluoromethyl)phenyl isocynate (0.31 mL, 2.17 mmol) via syringe. The resulting mixture was stirred at room temperature under a nitrogen atmosphere overnight. The reaction mixture was then concentrated on a rotary evaporator and the residue was partitioned between dichloromethane (150 mL) and 1N aqueous HCl (100 mL). The aqueous layer was extracted twice with additional portions of dichloromethane ((25 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated on a rotary evaporator. The desired product was isolated by chromatrography on silica gel (2% methanol/dichloromethane) to yield the title compound as a light yellow solid (0.36 g, 73% yield), mp=97–100° C.; MS (−) ESI m/z=342 (M−H)−.

reactant | Sodium hydride | 1.59 mmol, 0.064 g | [H-].[Na+]
reactant | 2,4-dioxobicyclo[3.2.1]octane | 1.45 mmol, 0.20 g | O=C1C2CCC(C(C1)=O)C2 | C8H10O2
reactant | 4-fluoro-3-(trifluoromethyl)phenyl isocynate | 2.17 mmol, 0.31 mL | FC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3F4NO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[4-fluoro-3-(trifluoromethyl)phenyl]-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide | FC1=C(C=C(C=C1)NC(=O)C1C(C2CCC(C1=O)C2)=O)C(F)(F)F | C16H13F4NO3
